US09302988B2
Step 3: N-(2-Acetylamino-ethyl)-1-benzyl-3-(4-chlorophenyl)-N,4-dimethyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide (SC-37)
To a suspension of N-(2-aminoethyl)-1-benzyl-3-(4-chlorophenyl)-N,4-dimethyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide hydrochloride (150 mg, 0.308 mmol) in DCM (2 mL) were added dropwise Et3N (0.094 mL, 0.679 mmol) and acetyl chloride (0.024 mL, 0.339 mmol). The reaction mixture was stirred at room temperature overnight. The mixture was diluted with DCM and saturated aqueous NaHCO3. The layers were separated using a phase separator and the solvents were evaporated. The product was purified by flash column chromatography (silica, gradient heptane/EtOAc, 1:2→0:1) to afford 106 mg (70%) of SC-37.

reactant | N-(2-aminoethyl)-1-benzyl-3-(4-chlorophenyl)-N,4-dimethyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide hydrochloride | 0.308 mmol, 150 mg | Cl.NCCN(C(=O)C=1N(C(=C(C1C1=CC=C(C=C1)Cl)C)C(F)(F)F)CC1=CC=CC=C1)C
reactant | Et3N | 0.679 mmol, 0.094 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.339 mmol, 0.024 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-(2-Acetylamino-ethyl)-1-benzyl-3-(4-chlorophenyl)-N,4-dimethyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide | C(C)(=O)NCCN(C(=O)C=1N(C(=C(C1C1=CC=C(C=C1)Cl)C)C(F)(F)F)CC1=CC=CC=C1)C | C25H25ClF3N3O2
